* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* CDL Netlist:                                              *
*                                                           *
* Cell Name  : inv_drive                                    *
* Netlisted  : Fri Apr 24 19:53:04 2026                     *
* Pegasus Version: 23.23-s012 Wed May 29 16:54:16 PDT 2024  *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
*.LDD
*.DEVTMPLT 0 MN(g45n1svt) _nmos1v ndiff_conn(D) poly_conn(G) ndiff_conn(S) psubstrate(B)
*.DEVTMPLT 1 MP(g45p1svt) _pmos1v pdiff_conn(D) poly_conn(G) pdiff_conn(S) nwell_conn(B)

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: nmos1v_CDNS_777074779180                        *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt nmos1v_CDNS_777074779180 1 2 3
** N=3 EP=3 FDC=1
M0 1 3 2 2 g45n1svt L=4.5e-08 W=4.8e-07 AD=7.68e-14 AS=8.88e-14 PD=1.28e-06 PS=1.38e-06 fw=4.8e-07 sa=2.875e-07 sb=1.6e-07 sca=5.5368 scb=0.00211762 scc=1.87799e-05 $X=0 $Y=0 $dt=0
.ends nmos1v_CDNS_777074779180

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: nmos1v_CDNS_777074779181                        *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt nmos1v_CDNS_777074779181 1 2 3
** N=3 EP=3 FDC=1
M0 3 2 1 3 g45n1svt L=4.5e-08 W=1.2e-07 AD=8.88e-14 AS=1.92e-14 PD=1.48e-06 PS=5.6e-07 fw=1.2e-07 sa=1.6e-07 sb=4.15e-07 sca=4.3393 scb=0.000359466 scc=9.49104e-08 $X=0 $Y=0 $dt=0
.ends nmos1v_CDNS_777074779181

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: nmos1v_CDNS_777074779184                        *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt nmos1v_CDNS_777074779184 1 2 3
** N=3 EP=3 FDC=1
M0 2 1 3 3 g45n1svt L=4.5e-08 W=1.2e-07 AD=1.92e-14 AS=8.88e-14 PD=5.6e-07 PS=1.48e-06 fw=1.2e-07 sa=4.15e-07 sb=1.6e-07 sca=7.83438 scb=0.00526862 scc=6.64486e-05 $X=0 $Y=0 $dt=0
.ends nmos1v_CDNS_777074779184

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: nmos1v_CDNS_777074779185                        *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt nmos1v_CDNS_777074779185 1 2 3
** N=3 EP=3 FDC=1
M0 2 3 1 1 g45n1svt L=4.5e-08 W=4.8e-07 AD=7.68e-14 AS=8.88e-14 PD=1.28e-06 PS=1.48e-06 fw=4.8e-07 sa=2.875e-07 sb=1.6e-07 sca=5.5368 scb=0.00211762 scc=1.87799e-05 $X=0 $Y=0 $dt=0
.ends nmos1v_CDNS_777074779185

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: pmos1v_CDNS_777074779186                        *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt pmos1v_CDNS_777074779186 1 2 3
** N=4 EP=3 FDC=1
M0 1 2 3 3 g45p1svt L=4.5e-08 W=3.2e-07 AD=5.12e-14 AS=1.184e-13 PD=9.6e-07 PS=1.7e-06 fw=3.2e-07 sa=4.15e-07 sb=1.6e-07 sca=9.49408 scb=0.00563073 scc=3.43485e-05 $X=0 $Y=0 $dt=1
.ends pmos1v_CDNS_777074779186

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: nmos1v_CDNS_777074779187                        *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt nmos1v_CDNS_777074779187 1 2 3
** N=3 EP=3 FDC=1
M0 1 2 3 3 g45n1svt L=4.5e-08 W=2.4e-07 AD=3.84e-14 AS=8.88e-14 PD=8e-07 PS=1.38e-06 fw=2.4e-07 sa=4.15e-07 sb=1.6e-07 sca=4.54481 scb=0.000584364 scc=4.756e-07 $X=0 $Y=0 $dt=0
.ends nmos1v_CDNS_777074779187

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: inv_drive                                       *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt inv_drive gnd! in out out_b vdd!
** N=8 EP=5 FDC=10
X4 out_b gnd! 4 nmos1v_CDNS_777074779180 $T=2490 740 0 0 $X=2030 $Y=540
X5 3 in gnd! nmos1v_CDNS_777074779181 $T=1020 740 1 180 $X=690 $Y=540
X10 in 1 gnd! nmos1v_CDNS_777074779184 $T=930 1460 0 0 $X=690 $Y=1260
X11 gnd! out 1 nmos1v_CDNS_777074779185 $T=510 740 1 180 $X=-40 $Y=540
X12 4 3 vdd! pmos1v_CDNS_777074779186 $T=2070 3340 1 180 $X=1520 $Y=3140
X13 4 3 gnd! nmos1v_CDNS_777074779187 $T=2070 740 1 180 $X=1520 $Y=540
M0 vdd! 1 out vdd! g45p1svt L=4.5e-08 W=6.4e-07 AD=1.184e-13 AS=1.024e-13 PD=1.8e-06 PS=1.6e-06 fw=6.4e-07 sa=1.6e-07 sb=2.875e-07 sca=30.0539 scb=0.0312972 scc=0.00303658 $X=420 $Y=2700 $dt=1
M1 1 in vdd! vdd! g45p1svt L=4.5e-08 W=1.6e-07 AD=2.56e-14 AS=1.184e-13 PD=6.4e-07 PS=1.8e-06 fw=1.6e-07 sa=4.15e-07 sb=1.6e-07 sca=39.3793 scb=0.031398 scc=0.00510887 $X=930 $Y=2700 $dt=1
M2 3 in vdd! vdd! g45p1svt L=4.5e-08 W=1.6e-07 AD=2.56e-14 AS=1.184e-13 PD=6.4e-07 PS=1.8e-06 fw=1.6e-07 sa=4.15e-07 sb=1.6e-07 sca=8.95486 scb=0.00460179 scc=2.21886e-05 $X=930 $Y=3660 $dt=1
M3 out_b 4 vdd! vdd! g45p1svt L=4.5e-08 W=6.4e-07 AD=1.024e-13 AS=1.184e-13 PD=1.6e-06 PS=1.7e-06 fw=6.4e-07 sa=2.875e-07 sb=1.6e-07 sca=30.0539 scb=0.0312972 scc=0.00303658 $X=2490 $Y=2700 $dt=1
.ends inv_drive
